US08026257B2
(±)-tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-morpholino-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate.
(±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (75 mg, 0.113 mmol), sodium tert-butoxide (16.3 mg, 0.17 mmol), and palladium(II)acetate (1.02 mg, 4.53 μmol) were combined in toluene (2 mL) and treated with 2,8,9-triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane (3.1 mg, 9.05 μmol) and morpholine (0.012 mL, 0.136 mmol) in a microwave tube and sealed. After flushing the mixture with nitrogen, the mixture was heated at 100° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated, dissolved in ethyl acetate, washed with water and brine, concentrated, and purified by flash chromatography on silica gel (30% EtOAc/Hex) to afford 44 mg (58%) as an oil. LC/MS (HPLC method 2): tR=3.185 min, 669.25(MH)+.

reactant | (±)-tert-Butyl 4-((1-(5-bromo-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.113 mmol, 75 mg | BrC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45BrFN3O4Si
reactant | sodium tert-butoxide | 0.17 mmol, 16.3 mg | CC(C)([O-])C.[Na+]
reactant | 2,8,9-triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane | 9.05 μmol, 3.1 mg | C(C(C)C)N1P2N(CCN(CC1)CCN2CC(C)C)CC(C)C | C18H39N4P
reactant | morpholine | 0.136 mmol, 0.012 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 4.53 μmol, 1.02 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (±)-tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-morpholino-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)N1CCOCC1 | C36H53FN4O5Si
